US06008230
To a mixture of dimethylformamide (80.5 mg) and dichloromethane (2 ml) was added oxalyl chloride (140 mg), and the mixture was stirred for 30 minutes at ambient temperature. To the mixture was added 4-carboxymethyl-8-(2,6-dichlorobenzoylamino)-3-vinylquinoline (340 mg) at 0° C., and the mixture was stirred for 30 minutes at the same temperature. To the mixture was added a solution of 2-aminomethylpyridine (458 mg) in dichloromethane (2 ml) at 0° C., and the mixture was stirred for 30 minutes at the same temperature. The mixture was partitioned between dichloromethane and saturated sodium bicarbonate solution. The organic layer was washed with saturated ammonium chloride solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (dichloromethane-methanol) to give 4-(2,6-dichlorobenzoylamino)-9-hydroxyphenanthridine (75.7 mg).

reactant | dimethylformamide | 80.5 mg | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 140 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-carboxymethyl-8-(2,6-dichlorobenzoylamino)-3-vinylquinoline | 340 mg | C(=O)(O)CC1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)C=C | C20H14Cl2N2O3
reactant | 2-aminomethylpyridine | 458 mg | NCC1=NC=CC=C1 | C6H8N2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-(2,6-dichlorobenzoylamino)-9-hydroxyphenanthridine | 75.7 mg | ClC1=C(C(=O)NC2=CC=CC3=C4C=C(C=CC4=CN=C23)O)C(=CC=C1)Cl | C20H12Cl2N2O2
